US08623907B2
To a solution of 4-(4′-chloro-4-methylbiphenyl-3-yl)-2,2,6,6-tetramethylpyran-3,5-dione in anhydrous chloroform (3 ml) at 0° C. is added a second solution of sulfuryl chloride (0.025 ml, 0.315 mmol) in anhydrous chloroform (0.3 ml) dropwise. The reaction mixture is stirred for 30 minutes at 0° C. then for a further 1 hour at room temperature. Additional sulfuryl chloride (0.025 ml, 0.315 mmol) is next added, followed by warming to 60° C. for 2 hours, followed by addition of further sulfuryl chloride (0.20 ml, 2.52 mmol). The reaction mixture is finally stirred at room temperature overnight then quenched with saturated aqueous sodium bicarbonate, and extracted with ethylacetate. Purification by flash column chromatography (20% ethylacetate in hexane eluant) afforded 4-chloro-4-(4′-chloro-4-methylbiphenyl-3-yl)-2,2,6,6-tetramethyl-pyran-3,5-dione (0.033 g) as a yellow oil.

reactant | 4-(4′-chloro-4-methylbiphenyl-3-yl)-2,2,6,6-tetramethylpyran-3,5-dione | ClC1=CC=C(C=C1)C1=CC(=C(C=C1)C)C1C(C(OC(C1=O)(C)C)(C)C)=O | C22H23ClO3
reactant | sulfuryl chloride | 0.315 mmol, 0.025 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sulfuryl chloride | 0.315 mmol, 0.025 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sulfuryl chloride | 2.52 mmol, 0.20 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 0.3 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-chloro-4-(4′-chloro-4-methylbiphenyl-3-yl)-2,2,6,6-tetramethyl-pyran-3,5-dione | 0.033 g | ClC1(C(C(OC(C1=O)(C)C)(C)C)=O)C=1C=C(C=CC1C)C1=CC=C(C=C1)Cl | C22H22Cl2O3
